US09169248B2
To a solution of 1-(4-chlorophenyl)-5-isopropylpyrazole-4-carboxylic acid (10.0 g, 37.78 mmol) in CH2Cl2 (150 mL) was added oxalyl chloride (9.90 mL, 113.6 mmol) and DMF (0.15 mL). The mixture was stirred for 2 h at room temperature, concentrated in vacuo, and re-dissolved into 100 mL of acetone. The obtained acyl chloride solution was added portionwise to another flask containing NaN3 (12.31 g, 190 mmol) in H2O (100 mL) at 0° C. After 10 min, The reaction mixture was diluted with brine (300 mL) and extracted with EtOAc (500 mL). The organic layer was separated, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained acyl azide was diluted in 150 mL of toluene and heated at 95° C. until no more gas evolution occurred (approx. 1.5 h). The reaction mixture was cooled to rt and treated with 100 mL of dioxane and 300 mL of 1 M aqueous HCl. The resulting two-phase solution was heated to 95° C. After approx. 2.5 h, the reaction mixture was cooled to rt, made basic with dilute NH4OH, and extracted with EtOAc (500 ml). The organic layer was separated, dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography (SiO2, 0-100% EtOAc/CH2Cl2 gradient elution) to yield 1-(4-chlorophenyl)-5-isopropylpyrazol-4-amine (5.7 g, 64%).

reactant | 1-(4-chlorophenyl)-5-isopropylpyrazole-4-carboxylic acid | 37.78 mmol, 10.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)C(=O)O | C13H13ClN2O2
reactant | oxalyl chloride | 113.6 mmol, 9.90 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.15 mL | CN(C)C=O | C3H7NO
reactant | NaN3 | 190 mmol, 12.31 g | [N-]=[N+]=[N-].[Na+]
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
solvent | brine | 300 mL | [Cl-].[Na+].O
product | 1-(4-chlorophenyl)-5-isopropylpyrazol-4-amine | 5.7 g, 64% | ClC1=CC=C(C=C1)N1N=CC(=C1C(C)C)N | C12H14ClN3
